US06716851B2
4-(4,6-Dimethoxy-pyrimidin-2-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine
The title compound was prepared from 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine (50 mg, 0.192 mmol) and 2-amino-4,6-dimethoxypyrimidine (27 mg, 0.288 mmol) similar to Example 190 and was isolated as a solid. 1H NMR (CDCl3): 9.65 (brs, 1H), 8.71-8.70 (m, 2H), 7.54 (brs, 1H), 7.44 (dd, J=7.8, 4.8 Hz, 1H), 7.25 (s, 1H), 7.04 (s, 1H), 6.07 (t, J=5.4 Hz, 1H).

reactant | 4-chloro-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | 0.192 mmol, 50 mg | ClC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C10H5ClF3N3
reactant | 2-amino-4,6-dimethoxypyrimidine | 0.288 mmol, 27 mg | NC1=NC(=CC(=N1)OC)OC | C6H9N3O2
product | 4-(4,6-Dimethoxy-pyrimidin-2-ylamino)-2-(3-pyridinyl)-6-trifluoromethylpyrimidine | COC1=NC(=NC(=C1)OC)NC1=NC(=NC(=C1)C(F)(F)F)C=1C=NC=CC1 | C16H13F3N6O2
